US04221805
A solution of 50 g of 2-chlorobenzyl chloride in 100 ml of toluene is added in portions under agitation to a solution of 55 g of pyrrolidine in 150 ml of toluene, maintaining the temperature below 40° C. When all has been added, the mixture is brought to boiling point and heated under reflux for three hours. After cooling, it is washed twice with water, the toluene solution is dried over K2CO3, and the solvent is removed under reduced pressure. The residue is distilled under vacuum. B.P.=102°-104° C. 46 grams of N-(2-chlorobenzyl)-pyrrolidine are obtained. The analytical and spectral (I.R., N.M.R.) data agree with the proposed formula. Treating a solution in ether with gaseous HC1 gives the hydrochloride, M.P. 170° C.

reactant | 2-chlorobenzyl chloride | 50 g | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | pyrrolidine | 55 g | N1CCCC1 | C4H9N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-chlorobenzyl)-pyrrolidine | 46 grams | ClC1=C(CN2CCCC2)C=CC=C1 | C11H14ClN
